US09402841B2
Step A: (S)-tert-butyl 3-((6-cyanopyridin-2-yl)oxy)pyrrolidine-1-carboxylate
To (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (676 mg, 3.61 mmol) in NMP (4 mL) at 0° C. was added Cs2CO3 (1176 mg, 3.61 mmol) followed by 6-chloropicolinonitrile (500 mg, 3.61 mmol). The mixture was heated at 140° C. for 15 minutes in a microwave reactor to give the title compound. The crude product was used directly in the next step.

reactant | (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 3.61 mmol, 676 mg | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | Cs2CO3 | 3.61 mmol, 1176 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-chloropicolinonitrile | 3.61 mmol, 500 mg | ClC1=CC=CC(=N1)C#N | C6H3ClN2
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl 3-((6-cyanopyridin-2-yl)oxy)pyrrolidine-1-carboxylate | C(#N)C1=CC=CC(=N1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C15H19N3O3
